US04093739
An aqueous solution of 4N potassium hydroxide (4.65 ml., 0.01 mole) and 4 ml. of water is slowly added to a suspension of N-[3-(mercaptoacetylamino)benzoyl]glycine (5 g., 0.0186 mole) with 5 mg. disodium edetate. Warming the mixture to 45° C. provides a clear solution which is first diluted with 200 ml. of tetrahydrofuran and then cooled in a dry ice-ethanol bath to promote crystallization. After stirring the mixture for a period of 16 hr. at 25° C., the precipitated solid is collected, washed with tetrahydrofuran and dried under vacuum over calcium chloride to provide 5.6 g. (93% yield) of N-[3-(mercaptoacetylamino)benzoyl]glycine potassium salt hydrate, m.p. 175° C. (dec.).

reactant | potassium hydroxide | 0.01 mole, 4N, 4.65 ml | [OH-].[K+]
reactant | water | O | H2O
reactant | N-[3-(mercaptoacetylamino)benzoyl]glycine | 0.0186 mole, 5 g | SCC(=O)NC=1C=C(C(=O)NCC(=O)O)C=CC1 | C11H12N2O4S
reactant | disodium edetate | C(N(CC(=O)[O-])CC(=O)O)CN(CC(=O)O)CC(=O)[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[3-(mercaptoacetylamino)benzoyl]glycine potassium salt hydrate | 93% yield | O.[K+].SCC(=O)NC=1C=C(C(=O)NCC(=O)[O-])C=CC1 | InChI=1S/C11H12N2O4S.K.H2O/c14-9(6-18)13-8-3-1-2-7(4-8)11(17)12-5-10(15)16;;/h1-4,18H,5-6H2,(H,12,17)(H,13,14)(H,15,16);;1H2/q;+1;/p-1
